US07625914B2
5 g (11.5 mmol) of methyl 3-(4-{5-[(tert-butoxycarbonylmethylamino)methyl]thiophen-3-yl}phenyl)-2(S)-ethoxypropanoate are placed in 80 ml of dichloromethane and 4.4 ml of trifluoroacetic acid. After stirring at room temperature for 24 hours, water is added and the reaction medium is extracted with dichloromethane. The dichloromethane phase is washed with aqueous 30% sodium hydroxide solution, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by thin-layer chromatography on silica eluted with a 50/50 heptane/ethyl acetate mixture. 3.2 g (84%) of methyl 2(S)-ethoxy-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate are obtained.

reactant | methyl 3-(4-{5-[(tert-butoxycarbonylmethylamino)methyl]thiophen-3-yl}phenyl)-2(S)-ethoxypropanoate | 11.5 mmol, 5 g | C(C)(C)(C)OC(=O)CNCC1=CC(=CS1)C1=CC=C(C=C1)C[C@@H](C(=O)OC)OCC | C23H31NO5S
reactant | water | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 4.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 2(S)-ethoxy-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate | 3.2 g, 84% | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CSC(=C1)CNC | C18H23NO3S
